US06451821B1
Ethyl (2RS)-2-acetylamino-3-(3-cyanophenyl)-propanoate:
The process is performed as in Example 5, starting with 14.9 g of ethyl 2-acetylamino-2-(3-cyanobenzyl)malonate, 30 g of anhydrous lithium iodide and 150 cm3 of dry dimethylformamide. After stirring for 5 hours at a temperature in the region of 150° C., the reaction mass is cooled to room temperature. 1500 cm2 of water are added and the mixture is extracted with 3 times 300 cm3 of ethyl acetate. The extracts are combined, dried over magnesium sulfate, filtered and concentrated under reduced pressure (5 kPa) at a temperature in the region of 45° C. After drying in an oven at a temperature in the region of 40° C. under reduced pressure (10 Pa), 11.39 g of ethyl (2RS)-2-acetylamino-3-(3-cyanophenyl)propanoate are obtained in the form of a beige-colored paste. (Rf=0.51 in a 90/10 by volume mixture of ethyl acetate/cyclohexane, on a Merck 60F254R silica plate)

reactant | ethyl 2-acetylamino-2-(3-cyanobenzyl)malonate | 14.9 g | C(C)(=O)NC(C(=O)OCC)(C(=O)[O-])CC1=CC(=CC=C1)C#N
reactant | lithium iodide | 30 g | [I-].[Li+]
reactant | dimethylformamide | 150 cm3 | CN(C=O)C | C3H7NO
reactant | water | O | H2O
solvent | ethyl acetate cyclohexane | C(C)(=O)OCC.C1CCCCC1
product | Ethyl (2RS)-2-acetylamino-3-(3-cyanophenyl)-propanoate | C(C)(=O)NC(C(=O)OCC)CC1=CC(=CC=C1)C#N | C14H16N2O3
